2163-06-27 02:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - repeatedly bolused (total of 4L overnight) to maintain BP
   - UNa < 10 and Fena < 1 suggesting that pt is likely volume down
   - urine lytes ordered to check on non-anion gap metabolic acidosis
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2163-6-26**] 01:35 PM
   Heparin Sodium (Prophylaxis) - [**2163-6-26**] 07:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-6-27**] 02:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 100 (86 - 101) bpm
   BP: 125/60(68) {71/20(42) - 125/73(82)} mmHg
   RR: 26 (22 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,534 mL
                                                                     22 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  4,054 mL
                                                                     22 mL
   Blood products:
   Total out:
                                                                    172 mL
                                                                      0 mL
   Urine:
                                                                    172 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,362 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.38/30/112/16/-5
   PaO2 / FiO2: 224
   Physical Examination
   General: sleepy, resting in bed
   Chest: mid inspiratory crackles bitaterally, dull at bases
   CV: regular rate and rhythm, SEM across precordium
   Abd: Liver edge felt 2-3 cm below costal margin, soft, nt, mildly
   distended
   Ext: w/o edema
   Labs / Radiology
   141 mg/dL
   1.3 mg/dL
   16 mEq/L
   4.2 mEq/L
   33 mg/dL
   101 mEq/L
   128 mEq/L
        [image002.jpg]
                             [**2163-6-26**]  02:02 PM
                             [**2163-6-26**]  09:25 PM
   Cr
   1.3
   TCO2
   18
   Glucose
   141
   Other labs: Lactic Acid:2.0 mmol/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 DYSPNEA (SHORTNESS OF BREATH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   44 yo male with HIV on HAART, S/P AVR and DES, EtOH abuse, and
   progressive dyspnea over 6 mos transferred from [**Hospital Ward Name 790**] 2 after sz while
   having thoracentesis.
   1) Unresponsiveness: now alert and awake, patient never became
   pulseless, but did appear to be cyanotic but improvement of O2 sats on
   NRB.  Unclear precipitant, but based on history from MDs caring for him
   at the time of thoracentesis, a vagal episode is possible.  Given his
   confusion shortly after the multiple episodes, he may be having
   seizures as well, particularly given his significant ETOH history and
   last drink was 2 days ago.  He may have become hypoxic in the setting
   of aspiration as well, though CXR doesn't seem to show any significant
   abnormalities.  A large PTX could also cause these symptoms, but again,
   CXR does not show any evidence of that.  Hypoglycemia could also cause
   similar symptoms, especially given ETOH history, but BG have been wnl
   here.  Overall DDX includes vagal episode vs. seizures vs. aspiration
   vs. ptx vs. hypoglycemia (or a combination of the above).
   - oxygenating and ventilating satisfactorily based on ABG
   - normal fingersticks
   - f/u CXR
   - currently trending lactates
   - diazepam CIWA Q2H
   - lorazepam PRN for active seizures
   - most likely etiology is alcohol withdrawal seizures; pt falls within
   the [**1-25**] day window when seizures are most likely.  Cont above Rx and
   monitor for aspiration.
   2) Progressive dyspnea on exertion: so far, the etiology of this DOE
   over 6 months has not been entirely clear.  Cath on [**2163-3-1**] without
   obvious disease or intervention.  PFTs showing mild obstructive pattern
   with response to MDI.  BNP elevated to 10,600 on admission.  DDX
   includes heart failure, pleural effusions, overall deconditioning in
   the setting of significant ETOH abuse, or pulm htn.  Of note, primary
   team has been diuresing pt for ? CHF exacerbation/ volume overload.
   - CXR with bilateral effusions, patchy airspace dz c/w mutifocal
   process, cardiomegaly.
   - [**Female First Name (un) **] appears as transudative effusion by Light
s criteria.
   - check ECHO for LV/RV function and valve function (particularly pulm
   pressures)
   - s/p thoracentesis for right pleural effusion
   - diuresis once BP improves
   - unclear if this is CHF now in absence of cardiac event or valvular
   lesion.  Can consider pulm htn related to HIV, medications, or
   cirrhosis.  Plan for echo in am.
   - no signs of overt infection; no need for abx
   3) Transaminitis: significant elevation in transaminases without clear
   etiology at this point.  Acute ETOH hepatitis is possible given the
   ETOH abuse, though at this point, LFTs are still upwards trending.
   Also medication effect with ETOH is possible (HAART, statins, etc).
   Could be viral hepatitis superimposed on HIV.
   - appreciate hepatology recommendations; if this is EtOH hepatitis,
   will require new Rx plan
   - attempt to decrease hepatotoxic medications; buspirone has been
   weaned, have decreased dose of paroxetine
   - f/u hepatitis serologies, autoimmune serologies
   - no e/o thrombosis on US
   4) Acute kidney injury: creatinine to 1.4 today, slightly up from
   baseline of 1.0/1.1.  Likely this is secondary to diuresis given
   elevated BUN and hyponatremia as well
   - check urine lytes, urine eos
   - hold off on further diuresis today
   - trend creatinine for now
   5) Hypotension
 slightly hypotensive overnight, and required 4L IVF
   boluses to keep SBP in the 90s
 100s.  Suspect he was overly diuresed,
   or that he is systemically vasodilated [**1-24**] his liver disease.
   Currently stable.
   6) Non-anion gap metabolic acidosis
 DDX includes diarrhea (which pt
   denies), RTA, early renal failure, dilutional, or more likely NS IVF
   replacement.  Pt
s urine osmolarity is high and urine sodium is low,
   suggesting that he is volume down.  His FENa is also < 1.  Will plan to
   bolus to correct volume/dehydration status.
   7) Hyponatremia: mild decrease in Na, likely in the setting of
   diuresis. Also possibly med effect (SSRIs).  Could also be secondary to
   liver disease
   - free H20 restrict
   - check serum/urine osms
   8) HIV: on HAART as outpatient; currently being held in the setting of
   acute hepatitis
   - cont to hold HAART for now
   9) Macrocytic anemia: likely in the setting of ETOH abuse
   - thiamine/folate repletion
   - guaiac all stools
   10) CAD s/p PCI: on ASA daily, no b-blocker. statin held in the setting
   of acute hepatitis
   - cont ASA
   11) F/E/N: regular diet, replete lytes PRN
   12) Access: PIVs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-6-26**] 01:45 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: omeprazole
   VAP: not on vent
   Comments:
   Communication:  Comments: [**Name (NI) 318**] (husband) [**Telephone/Fax (3) 9514**]
   Code status: presumed full
   Disposition: ICU for now

2163-06-27 02:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - repeatedly bolused (total of 4L overnight) to maintain BP
   - UNa < 10 and Fena < 1 suggesting that pt is likely volume down
   - urine lytes ordered to check on non-anion gap metabolic acidosis
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2163-6-26**] 01:35 PM
   Heparin Sodium (Prophylaxis) - [**2163-6-26**] 07:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-6-27**] 02:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 100 (86 - 101) bpm
   BP: 125/60(68) {71/20(42) - 125/73(82)} mmHg
   RR: 26 (22 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,534 mL
                                                                     22 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  4,054 mL
                                                                     22 mL
   Blood products:
   Total out:
                                                                    172 mL
                                                                      0 mL
   Urine:
                                                                    172 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,362 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.38/30/112/16/-5
   PaO2 / FiO2: 224
   Physical Examination
   General: sleepy, resting in bed
   Chest: mid inspiratory crackles bitaterally, dull at bases
   CV: regular rate and rhythm, SEM across precordium
   Abd: Liver edge felt 2-3 cm below costal margin, soft, nt, mildly
   distended
   Ext: w/o edema
   Labs / Radiology
   141 mg/dL
   1.3 mg/dL
   16 mEq/L
   4.2 mEq/L
   33 mg/dL
   101 mEq/L
   128 mEq/L
        [image002.jpg]
                             [**2163-6-26**]  02:02 PM
                             [**2163-6-26**]  09:25 PM
   Cr
   1.3
   TCO2
   18
   Glucose
   141
   Other labs: Lactic Acid:2.0 mmol/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 DYSPNEA (SHORTNESS OF BREATH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   44 yo male with HIV on HAART, S/P AVR and DES, EtOH abuse, and
   progressive dyspnea over 6 mos transferred from [**Hospital Ward Name 790**] 2 after sz while
   having thoracentesis.
   1) Unresponsiveness: now alert and awake, patient never became
   pulseless, but did appear to be cyanotic but improvement of O2 sats on
   NRB.  Unclear precipitant, but based on history from MDs caring for him
   at the time of thoracentesis, a vagal episode is possible.  Given his
   confusion shortly after the multiple episodes, he may be having
   seizures as well, particularly given his significant ETOH history and
   last drink was 2 days ago.  He may have become hypoxic in the setting
   of aspiration as well, though CXR doesn't seem to show any significant
   abnormalities.  A large PTX could also cause these symptoms, but again,
   CXR does not show any evidence of that.  Hypoglycemia could also cause
   similar symptoms, especially given ETOH history, but BG have been wnl
   here.  Overall DDX includes vagal episode vs. seizures vs. aspiration
   vs. ptx vs. hypoglycemia (or a combination of the above).
   - oxygenating and ventilating satisfactorily based on ABG
   - normal fingersticks
   - f/u CXR
   - currently trending lactates
   - diazepam CIWA Q2H
   - lorazepam PRN for active seizures
   - most likely etiology is alcohol withdrawal seizures; pt falls within
   the [**1-25**] day window when seizures are most likely.  Cont above Rx and
   monitor for aspiration.
   2) Progressive dyspnea on exertion: so far, the etiology of this DOE
   over 6 months has not been entirely clear.  Cath on [**2163-3-1**] without
   obvious disease or intervention.  PFTs showing mild obstructive pattern
   with response to MDI.  BNP elevated to 10,600 on admission.  DDX
   includes heart failure, pleural effusions, or overall deconditioning in
   the setting of significant ETOH abuse.  Of note, primary team has been
   diuresing pt for ? CHF exacerbation/ volume overload.
   - CXR with bilateral effusions, patchy airspace dz c/w mutifocal
   process, cardiomegaly.
   - [**Female First Name (un) **] appears as transudative effusion by Light
s criteria.
   - check ECHO for LV/RV function and valve function
   - s/p thoracentesis for right pleural effusion
   - diuresis once BP improves
   - unclear if this is CHF now in absence of cardiac event or valvular
   lesion.  Can consider pulm htn related to HIV, medications, or
   cirrhosis.  Plan for echo in am.
   - no signs of overt infection; no need for abx
   3) Transaminitis: significant elevation in transaminases without clear
   etiology at this point.  Acute ETOH hepatitis is possible given the
   ETOH abuse, though at this point, LFTs are still upwards trending.
   Also medication effect with ETOH is possible (HAART, statins, etc).
   Could be viral hepatitis superimposed on HIV.
   - appreciate hepatology recommendations
   - attempt to decrease hepatotoxic medications; buspirone has been
   weaned, have decreased dose of paroxetine
   - f/u hepatitis serologies, autoimmune serologies
   - no e/o thrombosis on US
   4) Acute kidney injury: creatinine to 1.4 today, slightly up from
   baseline of 1.0/1.1.  Likely this is secondary to diuresis given
   elevated BUN and hyponatremia as well
   - check urine lytes, urine eos
   - hold off on further diuresis today
   - trend creatinine for now
   5) Non-anion gap metabolic acidosis
 DDX includes diarrhea (which pt
   denies), RTA, early renal failure, or dilutional.  Pt
s urine
   osmolarity is high and urine sodium is low, suggesting that he is
   volume down.  His FENa is also < 1.  Will plan to bolus to correct
   volume/dehydration status.
   6) Hyponatremia: mild decrease in Na, likely in the setting of
   diuresis. Also possibly med effect (SSRIs).  Could also be secondary to
   liver disease
   - free H20 restrict
   - check serum/urine osms
   7) HIV: on HAART as outpatient; currently being held in the setting of
   acute hepatitis
   - cont to hold HAART for now
   8) Macrocytic anemia: likely in the setting of ETOH abuse
   - thiamine/folate repletion
   - guaiac all stools
   9) CAD s/p PCI: on ASA daily, no b-blocker. statin held in the setting
   of acute hepatitis
   - cont ASA
   10) F/E/N: regular diet, replete lytes PRN
   11) Access: PIVs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-6-26**] 01:45 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: omeprazole
   VAP: not on vent
   Comments:
   Communication:  Comments: [**Name (NI) 318**] (husband) [**Telephone/Fax (3) 9514**]
   Code status: presumed full
   Disposition: ICU for now

2163-06-27 02:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - repeatedly bolused (total of 4L overnight) to maintain BP
   - UNa < 10 and Fena < 1 suggesting that pt is likely volume down
   - urine lytes ordered to check on non-anion gap metabolic acidosis
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2163-6-26**] 01:35 PM
   Heparin Sodium (Prophylaxis) - [**2163-6-26**] 07:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-6-27**] 02:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 100 (86 - 101) bpm
   BP: 125/60(68) {71/20(42) - 125/73(82)} mmHg
   RR: 26 (22 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,534 mL
                                                                     22 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  4,054 mL
                                                                     22 mL
   Blood products:
   Total out:
                                                                    172 mL
                                                                      0 mL
   Urine:
                                                                    172 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,362 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.38/30/112/16/-5
   PaO2 / FiO2: 224
   Physical Examination
   General: sleepy, resting in bed
   Chest: mid inspiratory crackles bitaterally, dull at bases
   CV: regular rate and rhythm, SEM across precordium
   Abd: Liver edge felt 2-3 cm below costal margin, soft, nt, mildly
   distended
   Ext: w/o edema
   Labs / Radiology
   141 mg/dL
   1.3 mg/dL
   16 mEq/L
   4.2 mEq/L
   33 mg/dL
   101 mEq/L
   128 mEq/L
        [image002.jpg]
                             [**2163-6-26**]  02:02 PM
                             [**2163-6-26**]  09:25 PM
   Cr
   1.3
   TCO2
   18
   Glucose
   141
   Other labs: Lactic Acid:2.0 mmol/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 DYSPNEA (SHORTNESS OF BREATH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   44 yo male with HIV on HAART, S/P AVR and DES, EtOH abuse, and
   progressive dyspnea over 6 mos transferred from [**Hospital Ward Name 790**] 2 after sz while
   having thoracentesis.
   1) Unresponsiveness: now alert and awake, patient never became
   pulseless, but did appear to be cyanotic but improvement of O2 sats on
   NRB.  Unclear precipitant, but based on history from MDs caring for him
   at the time of thoracentesis, a vagal episode is possible.  Given his
   confusion shortly after the multiple episodes, he may be having
   seizures as well, particularly given his significant ETOH history and
   last drink was 2 days ago.  He may have become hypoxic in the setting
   of aspiration as well, though CXR doesn't seem to show any significant
   abnormalities.  A large PTX could also cause these symptoms, but again,
   CXR does not show any evidence of that.  Hypoglycemia could also cause
   similar symptoms, especially given ETOH history, but BG have been wnl
   here.  Overall DDX includes vagal episode vs. seizures vs. aspiration
   vs. ptx vs. hypoglycemia (or a combination of the above).
   - oxygenating and ventilating satisfactorily based on ABG
   - normal fingersticks
   - f/u CXR
   - currently trending lactates
   - diazepam CIWA Q2H
   - lorazepam PRN for active seizures
   - most likely etiology is alcohol withdrawal seizures; pt falls within
   the [**1-25**] day window when seizures are most likely.  Cont above Rx and
   monitor for aspiration.
   2) Progressive dyspnea on exertion: so far, the etiology of this DOE
   over 6 months has not been entirely clear.  Cath on [**2163-3-1**] without
   obvious disease or intervention.  PFTs showing mild obstructive pattern
   with response to MDI.  BNP elevated to 10,600 on admission.  DDX
   includes heart failure, pleural effusions, or overall deconditioning in
   the setting of significant ETOH abuse.  Of note, primary team has been
   diuresing pt for ? CHF exacerbation/ volume overload.
   - CXR with bilateral effusions, patchy airspace dz c/w mutifocal
   process, cardiomegaly.
   - [**Female First Name (un) **] appears as transudative effusion by Light
s criteria.
   - check ECHO for LV/RV function and valve function
   - s/p thoracentesis for right pleural effusion
   - diuresis once BP improves
   - unclear if this is CHF now in absence of cardiac event or valvular
   lesion.  Can consider pulm htn related to HIV, medications, or
   cirrhosis.  Plan for echo in am.
   - no signs of overt infection; no need for abx
   3) Transaminitis: significant elevation in transaminases without clear
   etiology at this point.  Acute ETOH hepatitis is possible given the
   ETOH abuse, though at this point, LFTs are still upwards trending.
   Also medication effect with ETOH is possible (HAART, statins, etc).
   Could be viral hepatitis superimposed on HIV.
   - appreciate hepatology recommendations
   - attempt to decrease hepatotoxic medications; buspirone has been
   weaned, have decreased dose of paroxetine
   - f/u hepatitis serologies, autoimmune serologies
   - no e/o thrombosis on US
   4) Acute kidney injury: creatinine to 1.4 today, slightly up from
   baseline of 1.0/1.1.  Likely this is secondary to diuresis given
   elevated BUN and hyponatremia as well
   - check urine lytes, urine eos
   - hold off on further diuresis today
   - trend creatinine for now
   5) Hyponatremia: mild decrease in Na, likely in the setting of
   diuresis. Also possibly med effect (SSRIs).  Could also be secondary to
   liver disease
   - free H20 restrict
   - check serum/urine osms
   6) HIV: on HAART as outpatient; currently being held in the setting of
   acute hepatitis
   - cont to hold HAART for now
   7) Macrocytic anemia: likely in the setting of ETOH abuse
   - thiamine/folate repletion
   - guaiac all stools
   8) CAD s/p PCI: on ASA daily, no b-blocker. statin held in the setting
   of acute hepatitis
   - cont ASA
   9) F/E/N: regular diet, replete lytes PRN
   10) Access: PIVs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-6-26**] 01:45 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: omeprazole
   VAP: not on vent
   Comments:
   Communication:  Comments: [**Name (NI) 318**] (husband) [**Telephone/Fax (3) 9514**]
   Code status: presumed full
   Disposition: ICU for now

2163-06-27 02:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - repeatedly bolused (total of 4L overnight) to maintain BP
   - UNa < 10 and Fena < 1 suggesting that pt is likely volume down
   - urine lytes ordered to check on non-anion gap metabolic acidosis
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2163-6-26**] 01:35 PM
   Heparin Sodium (Prophylaxis) - [**2163-6-26**] 07:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-6-27**] 02:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 100 (86 - 101) bpm
   BP: 125/60(68) {71/20(42) - 125/73(82)} mmHg
   RR: 26 (22 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,534 mL
                                                                     22 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  4,054 mL
                                                                     22 mL
   Blood products:
   Total out:
                                                                    172 mL
                                                                      0 mL
   Urine:
                                                                    172 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,362 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.38/30/112/16/-5
   PaO2 / FiO2: 224
   Physical Examination
   Labs / Radiology
   141 mg/dL
   1.3 mg/dL
   16 mEq/L
   4.2 mEq/L
   33 mg/dL
   101 mEq/L
   128 mEq/L
        [image002.jpg]
                             [**2163-6-26**]  02:02 PM
                             [**2163-6-26**]  09:25 PM
   Cr
   1.3
   TCO2
   18
   Glucose
   141
   Other labs: Lactic Acid:2.0 mmol/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 DYSPNEA (SHORTNESS OF BREATH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-6-26**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2163-06-27 02:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - repeatedly bolused (total of 4L overnight) to maintain BP
   - UNa < 10 and Fena < 1 suggesting that pt is likely volume down
   - urine lytes ordered to check on non-anion gap metabolic acidosis
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2163-6-26**] 01:35 PM
   Heparin Sodium (Prophylaxis) - [**2163-6-26**] 07:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-6-27**] 02:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 100 (86 - 101) bpm
   BP: 125/60(68) {71/20(42) - 125/73(82)} mmHg
   RR: 26 (22 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,534 mL
                                                                     22 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  4,054 mL
                                                                     22 mL
   Blood products:
   Total out:
                                                                    172 mL
                                                                      0 mL
   Urine:
                                                                    172 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,362 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.38/30/112/16/-5
   PaO2 / FiO2: 224
   Physical Examination
   Labs / Radiology
   141 mg/dL
   1.3 mg/dL
   16 mEq/L
   4.2 mEq/L
   33 mg/dL
   101 mEq/L
   128 mEq/L
        [image002.jpg]
                             [**2163-6-26**]  02:02 PM
                             [**2163-6-26**]  09:25 PM
   Cr
   1.3
   TCO2
   18
   Glucose
   141
   Other labs: Lactic Acid:2.0 mmol/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 DYSPNEA (SHORTNESS OF BREATH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   44 yo male with HIV on HAART, S/P AVR and DES, EtOH abuse, and
   progressive dyspnea over 6 mos transferred from [**Hospital Ward Name 790**] 2 after sz while
   having thoracentesis.
   1) Unresponsiveness: now alert and awake, patient never became
   pulseless, but did appear to be cyanotic but improvement of O2 sats on
   NRB.  Unclear precipitant, but based on history from MDs caring for him
   at the time of thoracentesis, a vagal episode is possible.  Given his
   confusion shortly after the multiple episodes, he may be having
   seizures as well, particularly given his significant ETOH history and
   last drink was 3 days ago.  He may have become hypoxic in the setting
   of aspiration as well, though CXR doesn't seem to show any significant
   abnormalities.  A large PTX could also cause these symptoms, but again,
   CXR does not show any evidence of that.  Hypoglycemia could also cause
   similar symptoms, especially given ETOh history
   - will check ABG
   - f/u CXR
   - check fingerstick
   - check lactate
   - diazepam CIWA Q2H
   - lorazepam PRN for active seizures
   2) Progressive dyspnea on exertion: so far, the etiology of this has
   not been entirely clear.  possible causes include heart failure,
   pleural effusions, or overall deconditioning in the setting of
   significant ETOH abuse
   - check ECHO for LV/RV function and valve function
   - s/p thoracentesis for right pleural effusion
   - diuresis once BP improves
   3) Transaminitis: significant elevation in transaminases without clear
   etiology at this point.  Acute ETOH hepatitis is possible given the
   ETOH abuse, though at this point, LFTs are still upwards trending.
   Also medication effect with ETOH is possible (HAART, statins, etc).
   Could be viral hepatitis superimposed on HIV.
   - appreciate hepatology recommendations
   - attempt to decrease hepatotoxic medications; buspirone has been
   weaned, will decrease dose of paroxetine though needs to be done slowly
   given risk for withdrawals
   - f/u hepatitis serologies, autoimmune serologies
   - no e/o thrombosis on US
   4) Acute kidney injury: creatinine to 1.4 today, slightly up from
   baseline of 1.0/1.1.  Likely this is secondary to diuresis given
   elevated BUN and hyponatremia as well
   - check urine lytes, urine eos
   - hold off on further diuresis today
   - trend creatinine for now
   5) Hyponatremia: mild decrease in Na, likely in the setting of
   diuresis. Also possibly med effect (SSRIs).  Could also be secondary to
   liver disease
   - free H20 restrict
   - check serum/urine osms
   6) HIV: on HAART as outpatient; currently being held in the setting of
   acute hepatitis
   - cont to hold HAART for now
   7) Macrocytic anemia: likely in the setting of ETOH abuse
   - thiamine/folate repletion
   - guaiac all stools
   8) CAD s/p PCI: on ASA daily, no b-blocker. statin held in the setting
   of acute hepatitis
   - cont ASA
   9) F/E/N: regular diet, replete lytes PRN
   10) Access: PIVs
   11) PPx: hep sc, ppi
   12) FULL CODE
   13) Communication: patient, husband [**Name (NI) 318**] [**Name (NI) 9513**] [**Telephone/Fax (3) 9514**]
   14) Dispo: pending improvement in above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-6-26**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Has had progressive DOE over 6 mos with repeat cath unrevealing, PFTs
   showing mild obstruction but no response to MDI, and symptoms
   eventually to severe breathlessness with any exertion.  Adm [**6-24**] and
   diuresis begun for ? CHF.  CXR
 bilat effusions, patchy airspace dis
   c/w mutifocal process, cardiomeg.  [**Female First Name (un) **] today for dx and rx
 during
   procedure unresponsive, brady, eventual TC sz. Two subsequent sz all
   self limited but did get lorazepam for last episode.  Now lethargic,
   c/o SOB but dozing promptly.
   95.6     87     94/64
   SaO2 97% on NRB
 on 2 lpm prior to event
   Chest mid insp crackles bitat, dull atbases
   SEM across precordium
   ? Liver edge at 3 cm below CM
   w/o edema
   7.38/30/112
   Likely EtOH withdrawal sz. Should be self limited.  Would hold on
   additional meds until we see if he is having further sz.  Major concern
   now is his rising O2 requirement. Seems most likely he aspirated during
   sz.  No rx for now other than O2 and close observation.  [**Month (only) 60**] well
   require intubation for O2 support.  I have a harder time understanding
   his gradual breathlessness over last 6 mos.  BNP is elevated c/w
   cardiac dis but lung fields are remarkably clear on CXR and despite his
   signif cardiac hist not clear why he would develop CHF now in absence
   of cardiac event or valvular lesion from SBE.  One possibility, given
   course, is pulm HTN, either related to HIV or to cirrhosis.  Plan for
   echo in am. In meantime will continue gentle diuresis.  No current
   indication for abx but in view of CT read would BAL if he ends up on
   vent.

2163-06-27 02:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - repeatedly bolused (total of 4L overnight) to maintain BP
   - UNa < 10 and Fena < 1 suggesting that pt is likely volume down
   - urine lytes ordered to check on non-anion gap metabolic acidosis
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2163-6-26**] 01:35 PM
   Heparin Sodium (Prophylaxis) - [**2163-6-26**] 07:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-6-27**] 02:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 100 (86 - 101) bpm
   BP: 125/60(68) {71/20(42) - 125/73(82)} mmHg
   RR: 26 (22 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,534 mL
                                                                     22 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  4,054 mL
                                                                     22 mL
   Blood products:
   Total out:
                                                                    172 mL
                                                                      0 mL
   Urine:
                                                                    172 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,362 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.38/30/112/16/-5
   PaO2 / FiO2: 224
   Physical Examination
   General: sleepy, resting in bed
   Chest: mid inspiratory crackles bitaterally, dull at bases
   CV: regular rate and rhythm, SEM across precordium
   Abd: Liver edge felt 2-3 cm below costal margin, soft, nt, mildly
   distended
   Ext: w/o edema
   Labs / Radiology
   141 mg/dL
   1.3 mg/dL
   16 mEq/L
   4.2 mEq/L
   33 mg/dL
   101 mEq/L
   128 mEq/L
        [image002.jpg]
                             [**2163-6-26**]  02:02 PM
                             [**2163-6-26**]  09:25 PM
   Cr
   1.3
   TCO2
   18
   Glucose
   141
   Other labs: Lactic Acid:2.0 mmol/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 DYSPNEA (SHORTNESS OF BREATH)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   44 yo male with HIV on HAART, S/P AVR and DES, EtOH abuse, and
   progressive dyspnea over 6 mos transferred from [**Hospital Ward Name 790**] 2 after sz while
   having thoracentesis.
   1) Unresponsiveness: now alert and awake, patient never became
   pulseless, but did appear to be cyanotic but improvement of O2 sats on
   NRB.  Unclear precipitant, but based on history from MDs caring for him
   at the time of thoracentesis, a vagal episode is possible.  Given his
   confusion shortly after the multiple episodes, he may be having
   seizures as well, particularly given his significant ETOH history and
   last drink was 2 days ago.  He may have become hypoxic in the setting
   of aspiration as well, though CXR doesn't seem to show any significant
   abnormalities.  A large PTX could also cause these symptoms, but again,
   CXR does not show any evidence of that.  Hypoglycemia could also cause
   similar symptoms, especially given ETOH history, but BG have been wnl
   here.  Overall DDX includes vagal episode vs. seizures vs. aspiration
   vs. ptx vs. hypoglycemia (or a combination of the above).
   - oxygenating and ventilating satisfactorily based on ABG
   - normal fingersticks
   - f/u CXR
   - currently trending lactates
   - diazepam CIWA Q2H
   - lorazepam PRN for active seizures
   - most likely etiology is alcohol withdrawal seizures; pt falls within
   the [**1-25**] day window when seizures are most likely.  Cont above Rx and
   monitor for aspiration.
   2) Progressive dyspnea on exertion: so far, the etiology of this DOE
   over 6 months has not been entirely clear.  Cath on [**2163-3-1**] without
   obvious disease or intervention.  PFTs showing mild obstructive pattern
   with response to MDI.  BNP elevated to 10,600 on admission.  DDX
   includes heart failure, pleural effusions, or overall deconditioning in
   the setting of significant ETOH abuse.  Of note, primary team has been
   diuresing pt for ? CHF exacerbation/ volume overload.
   - CXR with bilateral effusions, patchy airspace dz c/w mutifocal
   process, cardiomegaly.
   - [**Female First Name (un) **] appears as transudative effusion by Light
s criteria.
   - check ECHO for LV/RV function and valve function
   - s/p thoracentesis for right pleural effusion
   - diuresis once BP improves
   - unclear if this is CHF now in absence of cardiac event or valvular
   lesion.  Can consider pulm htn related to HIV, medications, or
   cirrhosis.  Plan for echo in am.
   - no signs of overt infection; no need for abx
   3) Transaminitis: significant elevation in transaminases without clear
   etiology at this point.  Acute ETOH hepatitis is possible given the
   ETOH abuse, though at this point, LFTs are still upwards trending.
   Also medication effect with ETOH is possible (HAART, statins, etc).
   Could be viral hepatitis superimposed on HIV.
   - appreciate hepatology recommendations
   - attempt to decrease hepatotoxic medications; buspirone has been
   weaned, will decrease dose of paroxetine though needs to be done slowly
   given risk for withdrawals
   - f/u hepatitis serologies, autoimmune serologies
   - no e/o thrombosis on US
   4) Acute kidney injury: creatinine to 1.4 today, slightly up from
   baseline of 1.0/1.1.  Likely this is secondary to diuresis given
   elevated BUN and hyponatremia as well
   - check urine lytes, urine eos
   - hold off on further diuresis today
   - trend creatinine for now
   5) Hyponatremia: mild decrease in Na, likely in the setting of
   diuresis. Also possibly med effect (SSRIs).  Could also be secondary to
   liver disease
   - free H20 restrict
   - check serum/urine osms
   6) HIV: on HAART as outpatient; currently being held in the setting of
   acute hepatitis
   - cont to hold HAART for now
   7) Macrocytic anemia: likely in the setting of ETOH abuse
   - thiamine/folate repletion
   - guaiac all stools
   8) CAD s/p PCI: on ASA daily, no b-blocker. statin held in the setting
   of acute hepatitis
   - cont ASA
   9) F/E/N: regular diet, replete lytes PRN
   10) Access: PIVs
   11) PPx: hep sc, ppi
   12) FULL CODE
   13) Communication: patient, husband [**Name (NI) 318**] [**Name (NI) 9513**] [**Telephone/Fax (3) 9514**]
   14) Dispo: pending improvement in above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-6-26**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2163-06-28 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TEE shows AR.  Pt will likely need repair/replacement of
   bioprosthetic valve.
   - To be called out in AM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-6-27**] 08:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-6-28**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 100 (95 - 107) bpm
   BP: 105/77(82) {63/42(47) - 105/83(87)} mmHg
   RR: 28 (22 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    641 mL
                                                                  1,350 mL
   PO:
             350 mL
   TF:
   IVF:
                                                                    641 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    252 mL
   Urine:
                                                                    450 mL
                                                                    252 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                  1,098 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.35/42/21/20/-3
   Physical Examination
   Labs / Radiology
   199 K/uL
   12.3 g/dL
   115 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.2 mEq/L
   34 mg/dL
   96 mEq/L
   127 mEq/L
   36.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2163-6-26**]  02:02 PM
                             [**2163-6-26**]  09:25 PM
                             [**2163-6-27**]  04:25 AM
                             [**2163-6-27**]  02:44 PM
                             [**2163-6-28**]  06:00 AM
   WBC
   7.1
   8.4
   Hct
   35.0
   36.0
   Plt
   163
   199
   Cr
   1.3
   1.2
   1.1
   TCO2
   18
   24
   Glucose
   141
   112
   115
   Other labs: PT / PTT / INR:15.4/28.1/1.4, ALT / AST:858/736, Alk Phos /
   T Bili:115/1.0, Lactic Acid:2.7 mmol/L, Albumin:3.4 g/dL, LDH:614 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-6-27**] 10:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2163-06-28 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TEE shows AR.  Pt will likely need repair/replacement of
   bioprosthetic valve.
   - liver: unclear etiology of acute hepatitis/acute liver failure, but
   ddx includes medication vs. alcohol vs. viral
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-6-27**] 08:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-6-28**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 100 (95 - 107) bpm
   BP: 105/77(82) {63/42(47) - 105/83(87)} mmHg
   RR: 28 (22 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    641 mL
                                                                  1,350 mL
   PO:
             350 mL
   TF:
   IVF:
                                                                    641 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    252 mL
   Urine:
                                                                    450 mL
                                                                    252 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                  1,098 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.35/42/21/20/-3
   Physical Examination
   Labs / Radiology
   199 K/uL
   12.3 g/dL
   115 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.2 mEq/L
   34 mg/dL
   96 mEq/L
   127 mEq/L
   36.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2163-6-26**]  02:02 PM
                             [**2163-6-26**]  09:25 PM
                             [**2163-6-27**]  04:25 AM
                             [**2163-6-27**]  02:44 PM
                             [**2163-6-28**]  06:00 AM
   WBC
   7.1
   8.4
   Hct
   35.0
   36.0
   Plt
   163
   199
   Cr
   1.3
   1.2
   1.1
   TCO2
   18
   24
   Glucose
   141
   112
   115
   Other labs: PT / PTT / INR:15.4/28.1/1.4, ALT / AST:858/736, Alk Phos /
   T Bili:115/1.0, Lactic Acid:2.7 mmol/L, Albumin:3.4 g/dL, LDH:614 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-6-27**] 10:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2163-06-28 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TEE shows AR.  Pt will likely need repair/replacement of
   bioprosthetic valve.
   - liver: unclear etiology of acute hepatitis/acute liver failure, but
   ddx includes medication vs. alcohol vs. viral
   Echo shows severe AS, mod MR and mod TR with signif elevation of pulm
   pressures.  This suggests his sz, at least the initial one, was due to
   hypoperfusion in setting of bradycardia and further suggests his
   elevated LFTs are shock liver rather than EtOH or meds.  It is
   concerning that his BP remains below his baseline.  We will transfer to
   Cardiology, alert Cardiac Surgery and start preop. One major question
   is whether there is any value to having him abstinent for some period
   pre-op or whether his brady event suggests some urgency to valve
   replacement.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-6-27**] 08:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-6-28**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 100 (95 - 107) bpm
   BP: 105/77(82) {63/42(47) - 105/83(87)} mmHg
   RR: 28 (22 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    641 mL
                                                                  1,350 mL
   PO:
             350 mL
   TF:
   IVF:
                                                                    641 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    252 mL
   Urine:
                                                                    450 mL
                                                                    252 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                  1,098 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.35/42/21/20/-3
   Physical Examination
   Labs / Radiology
   199 K/uL
   12.3 g/dL
   115 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.2 mEq/L
   34 mg/dL
   96 mEq/L
   127 mEq/L
   36.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2163-6-26**]  02:02 PM
                             [**2163-6-26**]  09:25 PM
                             [**2163-6-27**]  04:25 AM
                             [**2163-6-27**]  02:44 PM
                             [**2163-6-28**]  06:00 AM
   WBC
   7.1
   8.4
   Hct
   35.0
   36.0
   Plt
   163
   199
   Cr
   1.3
   1.2
   1.1
   TCO2
   18
   24
   Glucose
   141
   112
   115
   Other labs: PT / PTT / INR:15.4/28.1/1.4, ALT / AST:858/736, Alk Phos /
   T Bili:115/1.0, Lactic Acid:2.7 mmol/L, Albumin:3.4 g/dL, LDH:614 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-6-27**] 10:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2163-06-28 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TEE shows AR.  Pt will likely need repair/replacement of
   bioprosthetic valve.
   - liver: unclear etiology of acute hepatitis/acute liver failure, but
   ddx includes medication vs. alcohol vs. viral
   Echo shows severe AS, mod MR and mod TR with signif elevation of pulm
   pressures.  This suggests his sz, at least the initial one, was due to
   hypoperfusion in setting of bradycardia and further suggests his
   elevated LFTs are shock liver rather than EtOH or meds.  It is
   concerning that his BP remains below his baseline.  We will transfer to
   Cardiology, alert Cardiac Surgery and start preop. One major question
   is whether there is any value to having him abstinent for some period
   pre-op or whether his brady event suggests some urgency to valve
   replacement.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-6-27**] 08:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-6-28**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 100 (95 - 107) bpm
   BP: 105/77(82) {63/42(47) - 105/83(87)} mmHg
   RR: 28 (22 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    641 mL
                                                                  1,350 mL
   PO:
             350 mL
   TF:
   IVF:
                                                                    641 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    252 mL
   Urine:
                                                                    450 mL
                                                                    252 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                  1,098 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.35/42/21/20/-3
   Physical Examination
   Labs / Radiology
   199 K/uL
   12.3 g/dL
   115 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.2 mEq/L
   34 mg/dL
   96 mEq/L
   127 mEq/L
   36.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2163-6-26**]  02:02 PM
                             [**2163-6-26**]  09:25 PM
                             [**2163-6-27**]  04:25 AM
                             [**2163-6-27**]  02:44 PM
                             [**2163-6-28**]  06:00 AM
   WBC
   7.1
   8.4
   Hct
   35.0
   36.0
   Plt
   163
   199
   Cr
   1.3
   1.2
   1.1
   TCO2
   18
   24
   Glucose
   141
   112
   115
   Other labs: PT / PTT / INR:15.4/28.1/1.4, ALT / AST:858/736, Alk Phos /
   T Bili:115/1.0, Lactic Acid:2.7 mmol/L, Albumin:3.4 g/dL, LDH:614 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   44 yo male with HIV on HAART, S/P AVR and DES, EtOH abuse, and
   progressive dyspnea over 6 mos transferred from [**Hospital Ward Name 790**] 2 after sz while
   having thoracentesis.
   1) Unresponsiveness: now alert and awake, patient never became
   pulseless, but did appear to be cyanotic but improvement of O2 sats on
   NRB.  Unclear precipitant, but based on history from MDs caring for him
   at the time of thoracentesis, a vagal episode is possible.  Given his
   confusion shortly after the multiple episodes, he may be having
   seizures as well, particularly given his significant ETOH history and
   last drink was 2 days ago.  He may have become hypoxic in the setting
   of aspiration as well, though CXR doesn't seem to show any significant
   abnormalities.  A large PTX could also cause these symptoms, but again,
   CXR does not show any evidence of that.  Hypoglycemia could also cause
   similar symptoms, especially given ETOH history, but BG have been wnl
   here.  Overall DDX includes vagal episode vs. seizures vs. aspiration
   vs. ptx vs. hypoglycemia (or a combination of the above).
   - oxygenating and ventilating satisfactorily based on ABG
   - normal fingersticks
   - f/u CXR
   - currently trending lactates
   - diazepam CIWA Q2H
   - lorazepam PRN for active seizures
   - most likely etiology is alcohol withdrawal seizures; pt falls within
   the [**1-25**] day window when seizures are most likely.  Cont above Rx and
   monitor for aspiration.
   2) Progressive dyspnea on exertion: so far, the etiology of this DOE
   over 6 months has not been entirely clear.  Cath on [**2163-3-1**] without
   obvious disease or intervention.  PFTs showing mild obstructive pattern
   with response to MDI.  BNP elevated to 10,600 on admission.  DDX
   includes heart failure, pleural effusions, overall deconditioning in
   the setting of significant ETOH abuse, or pulm htn.  Of note, primary
   team has been diuresing pt for ? CHF exacerbation/ volume overload.
   - CXR with bilateral effusions, patchy airspace dz c/w mutifocal
   process, cardiomegaly.
   - [**Female First Name (un) **] appears as transudative effusion by Light
s criteria.
   - check ECHO for LV/RV function and valve function (particularly pulm
   pressures)
   - s/p thoracentesis for right pleural effusion
   - diuresis once BP improves
   - unclear if this is CHF now in absence of cardiac event or valvular
   lesion.  Can consider pulm htn related to HIV, medications, or
   cirrhosis.  Plan for echo in am.
   - no signs of overt infection; no need for abx
   3) Transaminitis: significant elevation in transaminases without clear
   etiology at this point.  Acute ETOH hepatitis is possible given the
   ETOH abuse, though at this point, LFTs are still upwards trending.
   Also medication effect with ETOH is possible (HAART, statins, etc).
   Could be viral hepatitis superimposed on HIV.
   - appreciate hepatology recommendations; if this is EtOH hepatitis,
   will require new Rx plan
   - attempt to decrease hepatotoxic medications; buspirone has been
   weaned, have decreased dose of paroxetine
   - f/u hepatitis serologies, autoimmune serologies
   - no e/o thrombosis on US
   4) Acute kidney injury: creatinine to 1.4 today, slightly up from
   baseline of 1.0/1.1.  Likely this is secondary to diuresis given
   elevated BUN and hyponatremia as well
   - check urine lytes, urine eos
   - hold off on further diuresis today
   - trend creatinine for now
   5) Hypotension
 slightly hypotensive overnight, and required 4L IVF
   boluses to keep SBP in the 90s
 100s.  Suspect he was overly diuresed,
   or that he is systemically vasodilated [**1-24**] his liver disease.
   Currently stable.
   6) Non-anion gap metabolic acidosis
 DDX includes diarrhea (which pt
   denies), RTA, early renal failure, dilutional, or more likely NS IVF
   replacement.  Pt
s urine osmolarity is high and urine sodium is low,
   suggesting that he is volume down.  His FENa is also < 1.  Will plan to
   bolus to correct volume/dehydration status.
   7) Hyponatremia: mild decrease in Na, likely in the setting of
   diuresis. Also possibly med effect (SSRIs).  Could also be secondary to
   liver disease
   - free H20 restrict
   - check serum/urine osms
   8) HIV: on HAART as outpatient; currently being held in the setting of
   acute hepatitis
   - cont to hold HAART for now
   9) Macrocytic anemia: likely in the setting of ETOH abuse
   - thiamine/folate repletion
   - guaiac all stools
   10) CAD s/p PCI: on ASA daily, no b-blocker. statin held in the setting
   of acute hepatitis
   - cont ASA
   11) F/E/N: regular diet, replete lytes PRN
   12) Access: PIVs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-6-27**] 10:19 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2163-06-28 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TEE shows severe AS, moderate MR, moderate TR, elevated pulm
   pressures. Pt will likely need repair/replacement of bioprosthetic
   valve.
   - liver: unclear etiology of acute hepatitis/acute liver failure, but
   ddx includes medication vs. alcohol vs. viral
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-6-27**] 08:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-6-28**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 100 (95 - 107) bpm
   BP: 105/77(82) {63/42(47) - 105/83(87)} mmHg
   RR: 28 (22 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    641 mL
                                                                  1,350 mL
   PO:
             350 mL
   TF:
   IVF:
                                                                    641 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    252 mL
   Urine:
                                                                    450 mL
                                                                    252 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                  1,098 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.35/42/21/20/-3
   Physical Examination
   Labs / Radiology
   199 K/uL
   12.3 g/dL
   115 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.2 mEq/L
   34 mg/dL
   96 mEq/L
   127 mEq/L
   36.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2163-6-26**]  02:02 PM
                             [**2163-6-26**]  09:25 PM
                             [**2163-6-27**]  04:25 AM
                             [**2163-6-27**]  02:44 PM
                             [**2163-6-28**]  06:00 AM
   WBC
   7.1
   8.4
   Hct
   35.0
   36.0
   Plt
   163
   199
   Cr
   1.3
   1.2
   1.1
   TCO2
   18
   24
   Glucose
   141
   112
   115
   Other labs: PT / PTT / INR:15.4/28.1/1.4, ALT / AST:858/736, Alk Phos /
   T Bili:115/1.0, Lactic Acid:2.7 mmol/L, Albumin:3.4 g/dL, LDH:614 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   44 yo male with HIV on HAART, S/P AVR and DES, EtOH abuse, and
   progressive dyspnea over 6 mos transferred from [**Hospital Ward Name 790**] 2 after sz while
   having thoracentesis.
   1) Progressive dyspnea on exertion: Cath on [**2163-3-1**] without obvious
   disease or intervention.  PFTs showing mild obstructive pattern with
   slight response to MDI.  Most likely etiology is severe AS, mod MR and
   mod TR with significant elevation of pulm pressures (as seen on recent
   TEE).
   - s/p thoracentesis for right pleural effusion (transudative by Light
   criteria)
   - no signs of overt pulm infection
   - of note, his BP remains below his baseline.
   - We will transfer to Cardiology, alert Cardiac Surgery and start
   preop. One major question is whether there is any value to having him
   abstinent for some period pre-op or whether his brady event suggests
   some urgency to aortic valve replacement.
   2) Seizure
 resolved.  At least the initial one, was likely [**1-24**]
   hypoperfusion in the setting of bradycardia.
   - oxygenating and ventilating satisfactorily based on ABG
   - diazepam CIWA Q2H (has not required)
   - lorazepam PRN for active seizures
   - most likely etiology is hypoperfusion in setting of bradycardia
   rather than alcohol withdrawal seizures
   3) Transaminitis: significant elevation in transaminases (baseline
   100s, currently in 1000s).   Suspect his elevated LFTs are shock liver
   rather than EtOH or meds.   Less likely etiologies include acute ETOH
   hepatitis, medication effect, or viral etiologies.
   - appreciate hepatology recommendations
   - attempt to decrease hepatotoxic medications; buspirone has been
   weaned, have decreased dose of paroxetine
   - f/u hepatitis serologies, autoimmune serologies
   - no e/o thrombosis on US
   4) Acute kidney injury: creatinine at baseline today.  [**Month (only) 60**] be resolving
   as his hypoperfusion episode(s) are resolving.
   - trend Cr and UOP.
   5) Hypotension
 currently stable and appears euvolemic.  Previously
   was volume down and given 4L bolus IVF.
   6) Non-anion gap metabolic acidosis
 resolving.  Urine osmolarity was
   high and urine sodium low, suggesting that he was  volume down.  His
   FEurea was also < 35.  We bolused to correct volume/dehydration status.
   7) Hyponatremia: improving.  Mild decrease in Na, likely in the setting
   of prior diuresis. Also possibly med effect (SSRIs).  Could also be
   secondary to liver disease
   - free H20 restrict
   - check serum/urine osms
   8) HIV: on HAART as outpatient; currently being held in the setting of
   acute hepatitis
   - cont to hold HAART for now
   9) Macrocytic anemia: likely in the setting of ETOH abuse
   - thiamine/folate repletion
   - guaiac all stools
   10) CAD s/p PCI: on ASA daily, no b-blocker. statin held in the setting
   of acute hepatitis
   - cont ASA
   11) F/E/N: regular diet, replete lytes PRN
   12) Access: PIVs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-6-27**] 10:19 PM
   Prophylaxis:
   DVT: OOB, pboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2163-06-28 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TEE shows severe AS, moderate MR, moderate TR, elevated pulm
   pressures. Pt will likely need repair/replacement of bioprosthetic
   valve.
   - liver: unclear etiology of acute hepatitis/acute liver failure, but
   ddx includes medication vs. alcohol vs. viral
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-6-27**] 08:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-6-28**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 100 (95 - 107) bpm
   BP: 105/77(82) {63/42(47) - 105/83(87)} mmHg
   RR: 28 (22 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    641 mL
                                                                  1,350 mL
   PO:
             350 mL
   TF:
   IVF:
                                                                    641 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    252 mL
   Urine:
                                                                    450 mL
                                                                    252 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                  1,098 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.35/42/21/20/-3
   Physical Examination
   Labs / Radiology
   199 K/uL
   12.3 g/dL
   115 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.2 mEq/L
   34 mg/dL
   96 mEq/L
   127 mEq/L
   36.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2163-6-26**]  02:02 PM
                             [**2163-6-26**]  09:25 PM
                             [**2163-6-27**]  04:25 AM
                             [**2163-6-27**]  02:44 PM
                             [**2163-6-28**]  06:00 AM
   WBC
   7.1
   8.4
   Hct
   35.0
   36.0
   Plt
   163
   199
   Cr
   1.3
   1.2
   1.1
   TCO2
   18
   24
   Glucose
   141
   112
   115
   Other labs: PT / PTT / INR:15.4/28.1/1.4, ALT / AST:858/736, Alk Phos /
   T Bili:115/1.0, Lactic Acid:2.7 mmol/L, Albumin:3.4 g/dL, LDH:614 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   44 yo male with HIV on HAART, S/P AVR and DES, EtOH abuse, and
   progressive dyspnea over 6 mos transferred from [**Hospital Ward Name 790**] 2 after sz while
   having thoracentesis.
   1) Progressive dyspnea on exertion: Cath on [**2163-3-1**] without obvious
   disease or intervention.  PFTs showing mild obstructive pattern with
   slight response to MDI.  Most likely etiology is severe AS, mod MR and
   mod TR with significant elevation of pulm pressures (as seen on recent
   TEE).
   - s/p thoracentesis for right pleural effusion (transudative by Light
   criteria)
   - no signs of overt pulm infection
   - of note, his BP remains below his baseline.
   - We will transfer to Cardiology, alert Cardiac Surgery and start
   preop. One major question is whether there is any value to having him
   abstinent for some period pre-op or whether his brady event suggests
   some urgency to aortic valve replacement.
   2) Seizure
 resolved.  At least the initial one, was likely [**1-24**]
   hypoperfusion in the setting of bradycardia.
   - oxygenating and ventilating satisfactorily based on ABG
   - diazepam CIWA Q2H (has not required)
   - lorazepam PRN for active seizures
   - most likely etiology is hypoperfusion in setting of bradycardia
   rather than alcohol withdrawal seizures
   3) Transaminitis: significant elevation in transaminases (baseline
   100s, currently in 1000s).   Suspect his elevated LFTs are shock liver
   rather than EtOH or meds.   Less likely etiologies include acute ETOH
   hepatitis, medication effect, or viral etiologies.
   - appreciate hepatology recommendations
   - attempt to decrease hepatotoxic medications; buspirone has been
   weaned, have decreased dose of paroxetine
   - f/u hepatitis serologies, autoimmune serologies
   - no e/o thrombosis on US
   4) Acute kidney injury: creatinine at baseline today.  [**Month (only) 60**] be resolving
   as his hypoperfusion episode(s) are resolving.
   - trend Cr and UOP.
   5) Hypotension
 currently stable and appears euvolemic.  Previously
   was volume down and given 4L bolus IVF.
   6) Non-anion gap metabolic acidosis
 resolving.  Urine osmolarity was
   high and urine sodium low, suggesting that he was  volume down.  His
   FEurea was also < 35.  We bolused to correct volume/dehydration status.
   7) Hyponatremia: improving.  Mild decrease in Na, likely in the setting
   of prior diuresis. Also possibly med effect (SSRIs).  Could also be
   secondary to liver disease
   - free H20 restrict
   - check serum/urine osms
   8) HIV: on HAART as outpatient; currently being held in the setting of
   acute hepatitis
   - cont to hold HAART for now
   9) Macrocytic anemia: likely in the setting of ETOH abuse
   - thiamine/folate repletion
   - guaiac all stools
   10) CAD s/p PCI: on ASA daily, no b-blocker. statin held in the setting
   of acute hepatitis
   - cont ASA
   11) F/E/N: regular diet, replete lytes PRN
   12) Access: PIVs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-6-27**] 10:19 PM
   Prophylaxis:
   DVT: OOB, pboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 318**] (husband) [**Telephone/Fax (3) 9514**]
   Code status: presumed full
   Disposition : transfer to floor

2163-06-28 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TEE shows severe AS, moderate MR, moderate TR, elevated pulm
   pressures. Pt will likely need repair/replacement of bioprosthetic
   valve.
   - bolused 1L overnight (pos 5L length of stay)
   - UOP approx 20 cc/hr
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown; Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2163-6-27**] 08:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-6-28**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 100 (95 - 107) bpm
   BP: 105/77(82) {63/42(47) - 105/83(87)} mmHg
   RR: 28 (22 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    641 mL
                                                                  1,350 mL
   PO:
             350 mL
   TF:
   IVF:
                                                                    641 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    252 mL
   Urine:
                                                                    450 mL
                                                                    252 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                  1,098 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.35/42/21/20/-3
   Physical Examination
   Labs / Radiology
   199 K/uL
   12.3 g/dL
   115 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.2 mEq/L
   34 mg/dL
   96 mEq/L
   127 mEq/L
   36.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2163-6-26**]  02:02 PM
                             [**2163-6-26**]  09:25 PM
                             [**2163-6-27**]  04:25 AM
                             [**2163-6-27**]  02:44 PM
                             [**2163-6-28**]  06:00 AM
   WBC
   7.1
   8.4
   Hct
   35.0
   36.0
   Plt
   163
   199
   Cr
   1.3
   1.2
   1.1
   TCO2
   18
   24
   Glucose
   141
   112
   115
   Other labs: PT / PTT / INR:15.4/28.1/1.4, ALT / AST:858/736, Alk Phos /
   T Bili:115/1.0, Lactic Acid:2.7 mmol/L, Albumin:3.4 g/dL, LDH:614 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   44 yo male with HIV on HAART, S/P AVR and DES, EtOH abuse, and
   progressive dyspnea over 6 mos transferred from [**Hospital Ward Name 790**] 2 after sz while
   having thoracentesis.
   1) Progressive dyspnea on exertion: Cath on [**2163-3-1**] without obvious
   disease or intervention.  PFTs showing mild obstructive pattern with
   slight response to MDI.  Most likely etiology is severe AS, mod MR and
   mod TR with significant elevation of pulm pressures (as seen on recent
   TEE).
   - s/p thoracentesis for right pleural effusion (transudative by Light
   criteria)
   - no signs of overt pulm infection
   - of note, his BP remains below his baseline.
   - We will transfer to Cardiology, alert Cardiac Surgery and start
   preop. One major question is whether there is any value to having him
   abstinent for some period pre-op or whether his brady event suggests
   some urgency to aortic valve replacement.
   2) Seizure
 resolved.  At least the initial one, was likely [**1-24**]
   hypoperfusion in the setting of bradycardia.
   - oxygenating and ventilating satisfactorily based on ABG
   - diazepam CIWA Q2H (has not required)
   - lorazepam PRN for active seizures
   - most likely etiology is hypoperfusion in setting of bradycardia
   rather than alcohol withdrawal seizures
   3) Transaminitis: significant elevation in transaminases (baseline
   100s, currently in 1000s).  Currently downtrending. Suspect his
   elevated LFTs are shock liver rather than EtOH or meds.   Less likely
   etiologies include acute ETOH hepatitis, medication effect, or viral
   etiologies.
   - appreciate hepatology recommendations
   - attempted to decrease hepatotoxic medications; buspirone has been
   weaned, have decreased dose of paroxetine
   - f/u hepatitis serologies, autoimmune serologies
   - no e/o thrombosis on US
   - will likely restart statin and HAART after discussion with liver team
   4) Acute kidney injury: creatinine at baseline today but UOP low
   (likely due to poor forward flow [**1-24**] critical AS).
   - trend Cr and UOP.
   - with regard to fluid balance, he is up 5L this adm and UO is poor but
   we are reluctant to diurese and he is not a candidate for afterload
   reduction.
   - urine Na 79; may be consistent with ATN although no clear etiology
   (relative hypotension/hypoperfusion possible but not very likely).
   5) Hypotension
 currently stable and appears euvolemic.  Previously
   was volume down and given 4L bolus IVF.
   6) Non-anion gap metabolic acidosis
 resolving.  Urine osmolarity was
   high and urine sodium low, suggesting that he was  volume down.  His
   FEurea was also < 35.  We bolused to correct volume/dehydration status.
   7) Hyponatremia: improving.  Mild decrease in Na, likely in the setting
   of prior diuresis. Also possibly med effect (SSRIs).  Could also be
   secondary to liver disease
   - free H20 restrict
   - check serum/urine osms
   8) HIV: on HAART as outpatient; currently being held in the setting of
   acute hepatitis
   - holding HAART for now, but will likely restart today
   9) Macrocytic anemia: likely in the setting of ETOH abuse
   - thiamine/folate repletion
   - guaiac all stools
   10) CAD s/p PCI: on ASA daily, no b-blocker. statin held in the setting
   of acute hepatitis
   - cont ASA
   11) F/E/N: regular diet, replete lytes PRN
   12) Access: PIVs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-6-27**] 10:19 PM
   Prophylaxis:
   DVT: OOB, pboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 318**] (husband) [**Telephone/Fax (3) 9514**].
   Will contact PCP [**Name Initial (PRE) 1645**].
   Code status: presumed full
   Disposition : transfer to floor